US08309540B2
Step 4: 1-t-butyl 2-methyl (2S,4R)-4-[(6-bromo-2-ethoxy-7-methoxyquinolin-4-yl)oxy]pyrrolidine-1,2-dicarboxylate
A suspension of 1-t-butyl 2-methyl (2S,4S)-4-{[(4-bromophenyl)sulfonyl]oxy}pyrrolidine-1,2-dicarboxylate (25.0 g, 53.8 mmol), 6-bromo-2-ethoxy-7-methoxyquinolin-4-ol (16.1 g, 53.8 mmol) and Cs2CO3 (52.6 g, 162 mmol) in NMP (300 mL) was stirred at 75° C., under N2, for 2 hours. At 22° C., the reaction was diluted with water (500 mL) and extracted with EtOAc (3×500 mL). The combined EtOAc layers were washed with water (3×100 mL), brine (100 mL), dried over Na2SO4, filtered and concentrated. The residue was chromatographed on silica gel 60, eluting with 0 to 50% EtOAc in hexane, to give the title product. 1H NMR (400 MHz, CDCl3) δ 8.13 (s, 1H); 7.16 (s, 1H); 6.02 (s, 1H); 5.05 (m, 1H); 4.49 (m, 3H); 4.00 (s, 3H); 3.91 (m, 2H); 3.78 (s, 3H); 2.67 (m, 1H); 2.37 (m, 1H); 1.47 (s, 3H); 1.44 (s, 9H) ppm. LRMS (ESI) m/z 525.0 [(M+H)+; calcd for C23H30BrN2O7: 298.0].

reactant | 1-t-butyl 2-methyl (2S,4S)-4-{[(4-bromophenyl)sulfonyl]oxy}pyrrolidine-1,2-dicarboxylate | 53.8 mmol, 25.0 g | BrC1=CC=C(C=C1)S(=O)(=O)O[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C17H22BrNO7S
reactant | 6-bromo-2-ethoxy-7-methoxyquinolin-4-ol | 53.8 mmol, 16.1 g | BrC=1C=C2C(=CC(=NC2=CC1OC)OCC)O | C12H12BrNO3
reactant | Cs2CO3 | 162 mmol, 52.6 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | NMP | 300 mL | CN1CCCC1=O | C5H9NO
solvent | water | 500 mL | O | H2O
product | 1-t-butyl 2-methyl (2S,4R)-4-[(6-bromo-2-ethoxy-7-methoxyquinolin-4-yl)oxy]pyrrolidine-1,2-dicarboxylate | BrC=1C=C2C(=CC(=NC2=CC1OC)OCC)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C23H29BrN2O7
